US08048905B2
2-Fluoro-5-(5-isopropyl-tetrazol-1-yl)-3-(5-methyl-pyridin-2-yl)-benzoic acid was reacted with C-(5-methyl-pyrazin-2-yl)-methylamine using the procedure of step 4 of Example 7 to provide 2-fluoro-5-(5-isopropyl-tetrazol-1-yl)-N-(5-methyl-pyrazin-2-ylmethyl)-3-(5-methyl-pyridin-2-yl)-benzamide, MS (M+H)=447.

reactant | 2-Fluoro-5-(5-isopropyl-tetrazol-1-yl)-3-(5-methyl-pyridin-2-yl)-benzoic acid | FC1=C(C(=O)O)C=C(C=C1C1=NC=C(C=C1)C)N1N=NN=C1C(C)C | C17H16FN5O2
reactant | C-(5-methyl-pyrazin-2-yl)-methylamine | CC=1N=CC(=NC1)CN | C6H9N3
product | 2-fluoro-5-(5-isopropyl-tetrazol-1-yl)-N-(5-methyl-pyrazin-2-ylmethyl)-3-(5-methyl-pyridin-2-yl)-benzamide | FC1=C(C(=O)NCC2=NC=C(N=C2)C)C=C(C=C1C1=NC=C(C=C1)C)N1N=NN=C1C(C)C | C23H23FN8O
